US04806685
10 ml of a 40% aqueous solution of dimethylamine are added to a solution of 5.37 g (12 mmoles) of (E)-1-[4-(2-bromoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene, prepared as described in Example 7, in 10 ml of ethanol. The mixture is allowed to stand for 3-4 days, then evaporated, the residue is diluted with 50 ml of benzene, the resulting solution is washed with water until neutral, dried and evaporated. The residue is crystallized from hexane. 4.26 g (86.2%) of (E)-1-[4-(2-dimethylaminoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene are obtained; m.p.: 90°-91° C.

reactant | dimethylamine | CNC | C2H7N
reactant | (E)-1-[4-(2-bromoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene | 12 mmoles, 5.37 g | BrCCOC1=CC=C(C=C1)\C(=C(\C(F)(F)F)/C1=CC=CC=C1)\C1=CC=CC=C1 | C23H18BrF3O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (E)-1-[4-(2-dimethylaminoethoxy)-phenyl]-1,2-diphenyl-3,3,3-trifluoro-propene | 4.26 g, 86.2% | CN(CCOC1=CC=C(C=C1)\C(=C(\C(F)(F)F)/C1=CC=CC=C1)\C1=CC=CC=C1)C | C25H24F3NO
